US07288553B2
2-(1,2-Dihydroxy-1-methyl-ethyl)-6-trifluoromethyl-1H-indole-5-carbonitrile
To a suspension of 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-1-methyl-ethyl]-1-methanesulfonyl-6-trifluoromethyl-1H-indole-5-carbonitrile (9.22 g, 0.01935 mole) in methanol (150 mL), a solution of NaOH (4.64 g 0.1161 mole) in water (25 mL) was added. The resulting mixture was heated in an oil-bath at 50° C. for 4 hr and tthen stirred at room temperature overnight. To the reaction mixture was then added 1 N HCl until the pH was 3. The aqueous mixture was extracted with EtOAc, the organic layer was washed with water, brine, then dried over MgSO4. The solvent was stripped off, the residue was triturated with DCM, and the resulting solid collected by filtration to yield the title compound as a light grey solid.

reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-1-methyl-ethyl]-1-methanesulfonyl-6-trifluoromethyl-1H-indole-5-carbonitrile | 0.01935 mole, 9.22 g | C(C)(C)(C)[Si](OCC(C)(O)C=1N(C2=CC(=C(C=C2C1)C#N)C(F)(F)F)S(=O)(=O)C)(C)C | C20H27F3N2O4SSi
reactant | NaOH | 0.1161 mole, 4.64 g | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 2-(1,2-Dihydroxy-1-methyl-ethyl)-6-trifluoromethyl-1H-indole-5-carbonitrile | OC(CO)(C)C=1NC2=CC(=C(C=C2C1)C#N)C(F)(F)F | C13H11F3N2O2
